US08610345B2
1.5 g of 2-(4-diphenylaminophenyl)nitrobenzene and 20 ml of triethyl phosphate were heated and stirred at 160° C. for 8 hours. After triethyl phosphate was distilled off under reduced pressure, 10 ml of methanol was added, followed by filtration. The resulting solid was vacuum-dried to obtain 1.2 g of 2-diphenylaminocarbazole.

reactant | 2-(4-diphenylaminophenyl)nitrobenzene | 1.5 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C24H18N2O2
solvent | triethyl phosphate | 20 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | 2-diphenylaminocarbazole | 1.2 g | C1(=CC=CC=C1)N(C1=CC=2NC3=CC=CC=C3C2C=C1)C1=CC=CC=C1 | C24H18N2
